US09446130B2
A stirred solution of trichloromethyl carbonochloridate (1.038 g, 5.25 mmol) in tetrahydrofuran (10 mL) was cooled to 0° C. and a solution of 3-(trifluoromethyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyrazine hydrochloride (1 g, 4.37 mmol, J. Med. Chem., 2005, 141) and N-ethyl-N-isopropylpropan-2-amine (1.131 g, 8.75 mmol) in tetrahydrofuran (10 mL) was added slowly in 25 minutes. After stirring at 0° C. for one hour the solids were removed by filtration and the filtrate was concentrated in vaccuo (50° C. bath temperature). The residue was added to a solution of (3-chloropyrazin-2-yl)methanamine hydrochloride (0.788 g, 4.37 mmol) and triethylamine (1.018 g, 10.06 mmol) in dichloromethane (20 mL) and the reaction mixture was stirred for three hours. The solids were removed by filtration and the filtrate was concentrated in vacuo. Purification using column chromatography (silica gel; gradient dichloromethane/methanol 100:0 to 95:5) to afford N-((3-chloropyrazin-2-yl)methyl)-3-(trifluoromethyl)-5,6-dihydro-[1,2,4]triazolo[4,3-a]pyrazine-7(8H)-carboxamide (1.56 g, 4.31 mmol, 99% yield). LC-MS: C12H11ClF3N7O: 361. found 362.04[M+H]+, RT=0.42 min.

reactant | trichloromethyl carbonochloridate | 5.25 mmol, 1.038 g | C(OC(Cl)(Cl)Cl)(=O)Cl | C2Cl4O2
reactant | 3-(trifluoromethyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyrazine hydrochloride | 4.37 mmol, 1 g | Cl.FC(C1=NN=C2N1CCNC2)(F)F
reactant | N-ethyl-N-isopropylpropan-2-amine | 8.75 mmol, 1.131 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | (3-chloropyrazin-2-yl)methanamine hydrochloride | 4.37 mmol, 0.788 g | Cl.ClC=1C(=NC=CN1)CN
reactant | triethylamine | 10.06 mmol, 1.018 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | N-((3-chloropyrazin-2-yl)methyl)-3-(trifluoromethyl)-5,6-dihydro-[1,2,4]triazolo[4,3-a]pyrazine-7(8H)-carboxamide | 4.31 mmol, 1.56 g, 99% yield | ClC=1C(=NC=CN1)CNC(=O)N1CC=2N(CC1)C(=NN2)C(F)(F)F | C12H11ClF3N7O
